US04172093
(a) Spiro(cyclopentane-1,1'-indan)-3'-one
To a mixture of acetic acid (75 ml), water (75 ml) and chromium trioxide (75 g; 0.75 moles) there are added dropwise under agitation 3'-chlorospiro(cyclopentane-1,1'-indan) (103 g; 0.5 moles), the temperature being held at 30°-40° C. by external cooling.

reactant | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
reactant | 3'-chlorospiro(cyclopentane-1,1'-indan) | 0.5 moles, 103 g | ClC1CC2(C3=CC=CC=C13)CCCC2 | C13H15Cl
catalyst | chromium trioxide | 0.75 moles, 75 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | 75 ml | O | H2O
product | Spiro(cyclopentane-1,1'-indan)-3'-one | C12(CC(C3=CC=CC=C13)=O)CCCC2 | C13H14O
